US04070348
3 g allyl-methacrylate.
The monomer solution was dispersed in the organic phase and degassed with agitation. Polymerization was initiated by addition of 1 g dibenzoyl peroxide and 0.5 g dimethyl aniline. External cooling of the batch was necessary in order to maintain the temperature at 25° C. After agitating for 8 hours, an equal volume of acetone was added. The beads shrank and became hard, thus avoiding sticking together. They were separated from the organic phase by settling and suction filtration. Then they were washed with dry acetone and dried in vacuum (10 mm Hg) at 40° C.

reactant | dibenzoyl peroxide | 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | dimethyl aniline | 0.5 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | acetone | CC(=O)C | C3H6O
product | allyl-methacrylate | C(C=C)OC(C(=C)C)=O | C7H10O2
